US08349824B2
a) 1-Methyl-1H-pyrazole-4-carboxylic acid ethyl-methyl-amide
This compound was prepared in the same manner as described in example 97, step a from 1-methyl-1H-pyrazole-4-carboxylic acid (1.0 g, 7.93 mmol) and N-methylethanamine (715 μl, 8.33 mmol). Yield: 995 mg (75%); off-white solid; MS: m/z=168.1 [M+H]+.

reactant | 1-methyl-1H-pyrazole-4-carboxylic acid | 7.93 mmol, 1.0 g | CN1N=CC(=C1)C(=O)O | C5H6N2O2
reactant | N-methylethanamine | 8.33 mmol, 715 μl | CNCC | C3H9N
product | 1-Methyl-1H-pyrazole-4-carboxylic acid ethyl-methyl-amide | C(C)N(C(=O)C=1C=NN(C1)C)C | C8H13N3O
